US09427475B2
Step C: [(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)(2-{[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexyl]amino}-2-oxoethyl)amino]acetic acid
To a suspension of 2,2′-[(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)azanediyl]diacetic acid (1.0 g, 2.54 mmol) in CH2Cl2 (30 mL) at 0° C. was added trifluoroacetic anhydride (448 μL, 3.17 mmol). After stirring at 0° C. for 3 hr, the mixture was cooled to −30° C., to which a solution of Et3N (848 μL, 6.08 mmol) in DMF (20 mL) was added dropwise over 30 mins After stirring at −30° C. for 30 min, a mixture of 6-amino-N-{2-[(α-L-fucopyranosyl)oxy]ethyl}hexanamide (812 mg, 2.54 mmol) in DMF (30 mL) was added and the resulting mixture was allowed to stir at rt. After stirring for 16 hr, the mixture was concentrated and the residue was purified by flash chromatography on C18 reverse phase silica gel (42 g), eluting with 0-40% AcCN in water to produce the title compound. UPLC Method B: m/e=697.3876 [M+1]; Rt=3.398 min. 1H NMR (CD3OD) δ 1.23 (3 H, d, J=6.59), 1.39-1.36 (4 H, m), 1.56 (6 H, s), 1.67 (6 H, d, J=10.32), 2.23 (2 H, t, J=7.50), 2.41 (2 H, t, J=7.37), 3.24 (6 H, m), 3.42 (4 H, s), 3.49 (2 H, s), 3.57-3.52 (3 H, m), 3.68 (1 H, s), 3.77 (3 H, t, J=1.65), 3.98-3.94 (1 H, m), 4.77 (1 H, s), 5.14 (2 H, s), 7.38 (5 H, d, J=4.43).

reactant | 2,2′-[(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)azanediyl]diacetic acid | 2.54 mmol, 1.0 g | C(C1=CC=CC=C1)OC(CCCCCNC(CN(CC(=O)O)CC(=O)O)=O)=O | C19H26N2O7
reactant | trifluoroacetic anhydride | 3.17 mmol, 448 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Et3N | 6.08 mmol, 848 μL | CCN(CC)CC | C6H15N
reactant | 6-amino-N-{2-[(α-L-fucopyranosyl)oxy]ethyl}hexanamide | 2.54 mmol, 812 mg | NCCCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C14H28N2O6
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)(2-{[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexyl]amino}-2-oxoethyl)amino]acetic acid | C(C1=CC=CC=C1)OC(CCCCCNC(CN(CC(=O)NCCCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CC(=O)O)=O)=O | C33H52N4O12
